US04921867
5-[3-[[6-[[2-(4-Amino-3,5-dichlorophenyl)-2-hydroxyethyl]amino]hexyl]oxy]propyl]-3-pyridineacetic acid
A solution of methyl 5-[3-[[6-[[2-(4-amino-3,5-dichlorophenyl)-2-hydroxyethyl]amino]hexyl]oxy]propyl]-3-pyridineacetate (600 mg) in methanol (10 ml) and 2N sodium hydroxide (10 ml) was stirred at room temperature for 10 min. Dowex (50) H+ methanol washed resin was added portionwise until pH 7. The resin was filtered off, the solution concentrated in vacuo to give a brown solid which was triturated in ethanol/methanol (1:2) to give the title compound as a light brown solid (250 mg), m.p. 191°-192° t.l.c. (methanol) Rf 0.6.

reactant | methyl 5-[3-[[6-[[2-(4-amino-3,5-dichlorophenyl)-2-hydroxyethyl]amino]hexyl]oxy]propyl]-3-pyridineacetate | 600 mg | NC1=C(C=C(C=C1Cl)C(CNCCCCCCOCCCC=1C=C(C=NC1)CC(=O)OC)O)Cl | C25H35Cl2N3O4
solvent | methanol | 10 ml | CO | CH4O
solvent | sodium hydroxide | 2N, 10 ml | [OH-].[Na+]
product | 5-[3-[[6-[[2-(4-Amino-3,5-dichlorophenyl)-2-hydroxyethyl]amino]hexyl]oxy]propyl]-3-pyridineacetic acid | 250 mg | NC1=C(C=C(C=C1Cl)C(CNCCCCCCOCCCC=1C=C(C=NC1)CC(=O)O)O)Cl | C24H33Cl2N3O4
